US07745438B2
5-(S)-[2-(R)-Acetylamino-3-(3,5-difluorophenyl)-1-(R)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester
Add acetic anhydride (25 μL, 0.264 mmol) to a solution of 5-(R)-[2-(S)-amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester (107 mg, 0.240 mmol) and triethylamine (37 μL, 0.267 mmol) in tetrahydrofuran (5 mL) and stir at room temperature for 18 hours. Concentrate and purify (silica gel chromatography, eluting with 80:20 ethyl acetate:dichloromethane), to separate the two title compounds 5-(R)-[2-(S)-acetylamino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester (0.141 g, 59%) and 5-(S)-[2-(R)-acetylamino-3-(3,5-difluorophenyl)-1-(R)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester (25.1 mg, 22%).

reactant | acetic anhydride | 0.264 mmol, 25 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(R)-[2-(S)-amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.240 mmol, 107 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)CCC(C)C | C23H36F2N2O4
reactant | triethylamine | 0.267 mmol, 37 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(S)-[2-(R)-Acetylamino-3-(3,5-difluorophenyl)-1-(R)-hydroxypropyl]-2-(S)-(3-methylbutyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@H]1[C@@H]([C@@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)CCC(C)C | C25H38F2N2O5
